US07414049B2
b) 3-Amino-1-(2-benzyloxy-ethyl)-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the [1-(2-benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded quantitatively the title compound as a light yellow solid; MS (m/e): 394 (M+H)+.

reactant | [1-(2-benzyloxy-ethyl)-2-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(C2=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C25H30F3N3O4
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Amino-1-(2-benzyloxy-ethyl)-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride | Cl.NC1CN(C2=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C2)CC(F)(F)F | InChI=1S/C20H22F3N3O2.ClH/c21-20(22,23)14-25-12-16(24)19(27)26(18-9-5-4-8-17(18)25)10-11-28-13-15-6-2-1-3-7-15;/h1-9,16H,10-14,24H2;1H
